US07592373B2
4.5.a. triphenyl-(2,4,6-trichlorophenylethynyl)silane
In an argon atmosphere, 9 g (34.6 mmol) of 1-bromo-2,4,6-trichlorobenzene, 9.8 g (34.45 mmol) of triphenylsilylacetylene, and 15 mL of triethylamine are dissolved in 100 mL of absolute dioxane and at 90° C. combined with 0.2 g (1.04 mmol) of copper (I) iodide and 1.2 g (1.04 mmol) of tetrakistriphenylphosphine palladium and stirred for 20 hours. The reaction mixture is filtered through CELITE® filter aid and the filtrate is evaporated down. The residue is taken up in ethyl acetate and extracted with water. The organic phase is dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (eluant: petroleum ether/toluene (5:1)). The product is recrystallized from petroleum ether and dried in the vacuum drying chamber at 70° C. Yield: 6.9 g (43% of theory); melting point: 115° C.-120° C.; C26H17Cl3Si (M=463.87); calc.: molecular ion peak (M+H)+: 463/465/467/469; found: molecular ion peak (M+H)+: 463/465/467/469; Rf value: 0.6 (silica gel, petroleum ether/toluene (4:1)).

reactant | 1-bromo-2,4,6-trichlorobenzene | 34.6 mmol, 9 g | BrC1=C(C=C(C=C1Cl)Cl)Cl | C6H2BrCl3
reactant | triphenylsilylacetylene | 34.45 mmol, 9.8 g | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C#C | C20H16Si
reactant | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 1.04 mmol, 0.2 g | [Cu]I
product | triphenyl-(2,4,6-trichlorophenylethynyl)silane | C1(=CC=CC=C1)[Si](C#CC1=C(C=C(C=C1Cl)Cl)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H17Cl3Si
